US05912353
Synthesis of 2-trifluoroacetamido-5-ethyl-1,3,4-thiadiazole
To a suspension of 200 g of 2-amino-5-ethyl-1,3,4-thiadiazole in 3 liters of toluene, was added 260 ml of triethylamine at room temperature. To the mixture was added dropwise 265 ml of trifluoroacetic anhydride on ice, followed by stirring at room temperature for one hour. Water was added to the reaction mixture, and the crystals so precipitated were collected by filtration. Ethyl acetate was added to the filtrate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure, whereby 237.5 g of the title compound was obtained.

reactant | 2-amino-5-ethyl-1,3,4-thiadiazole | 200 g | NC=1SC(=NN1)CC | C4H7N3S
reactant | triethylamine | 260 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 265 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | toluene | 3 liters | C1(=CC=CC=C1)C | C7H8
product | 2-trifluoroacetamido-5-ethyl-1,3,4-thiadiazole | 237.5 g | FC(C(=O)NC=1SC(=NN1)CC)(F)F | C6H6F3N3OS
